US07935707B2
B) 3-Cyclopropyl-5-(6-hydroxy-pyridin-3-yl)-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester
To 1.4 g (3 mmol) of 3-(6-benzyloxy-pyridin-3-yl)-2-[cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-3-oxo-propionic acid ethyl ester in 5 ml of EtOH was added 1.4 g (10 mmol) of ammonium trifluoroacetate. The EtOH was evaporated and the residue heated to 110° C. for 16 h. The cooled residue was partitioned between saturated sodium hydrogen carbonate solution and CH2Cl2. The organic phase was dried with sodium sulfate and concentrated. The crude reside was re-dissolved in 10 ml of EtOH, a generous spatula of 10% palladium on activated charcoal was added, and the mixture stirred under an atmosphere of hydrogen for 1 h. The mixture was then filtered over Hyflo and concentrated. Purification by flash column chromatography [MeOH/EtOAc 4:96 to 1:9] afforded 0.8 g (70%) of the title compound as a colorless solid. MS: 434.2 (MH+).

reactant | 3-(6-benzyloxy-pyridin-3-yl)-2-[cyclopropyl-(4-trifluoromethoxy-benzoyl)-amino]-3-oxo-propionic acid ethyl ester | 3 mmol, 1.4 g | C(C)OC(C(C(=O)C=1C=NC(=CC1)OCC1=CC=CC=C1)N(C(C1=CC=C(C=C1)OC(F)(F)F)=O)C1CC1)=O | C28H25F3N2O6
reactant | ammonium trifluoroacetate | 10 mmol, 1.4 g | FC(C(=O)[O-])(F)F.[NH4+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | 3-Cyclopropyl-5-(6-hydroxy-pyridin-3-yl)-2-(4-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid ethyl ester | 0.8 g, 70% | C(C)OC(=O)C=1N(C(=NC1C=1C=NC(=CC1)O)C1=CC=C(C=C1)OC(F)(F)F)C1CC1 | C21H18F3N3O4
